US09428499B2
Step-d: Preparation of 2-(3-aminophenoxy)-2-methylpropanamide
To a stirred solution of 2-methyl-2-(3-nitrophenoxy)propanamide (0.910 g, 4.06 mmol) in MeOH (15 ml) was added Pd—C (10%, 0.346 g) and triethylsilane (6.48 ml, 40.6 mmol) (slow addition) at room temperature. The reaction mixture was stirred at same temperature for 30 min. and filtered through celite, washed with methanol (50 ml). The Filtrate was concentrated under vacuum to get the crude compound. The crude compound was purified by flash chromatography to give the title product (0.516 g).

reactant | 2-methyl-2-(3-nitrophenoxy)propanamide | 4.06 mmol, 0.910 g | CC(C(=O)N)(C)OC1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O4
reactant | triethylsilane | 40.6 mmol, 6.48 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Pd—C | 0.346 g | [Pd] | Pd
product | 2-(3-aminophenoxy)-2-methylpropanamide | 0.516 g | NC=1C=C(OC(C(=O)N)(C)C)C=CC1 | C10H14N2O2
